US07268123B2
Diethyl 3,3′-[(vinylphosphoryl)bis(oxy)]dibenzoate (3)
A solution containing ethyl-3-hydroxybenzoate (8 mmol, 1.329 g) and triethylamine (8.3 mmol, 829 mg) in methylene chloride (50 mL) was added dropwise at 0° C. under stirring to a solution of dichloro vinylphosphonate (4 mmol, 0.58 g) in methylene chloride (20 mL). The reaction mixture was stirred at ambient temperature for 24 hours, washed twice with water (40 mL each). The separated organic layer was washed with brine, dried over magnesium sulfate, filtered and evaporated to dryness in vacuo to yield 1.61 g (86-99%) of the desired title compound. MS (APPI+): m/e 405 [M+H]+.

reactant | ethyl-3-hydroxybenzoate | 8 mmol, 1.329 g | C(C)OC(C1=CC(=CC=C1)O)=O | C9H10O3
reactant | triethylamine | 8.3 mmol, 829 mg | C(C)N(CC)CC | C6H15N
reactant | dichloro vinylphosphonate | 4 mmol, 0.58 g | C(=C)P(OCl)(OCl)=O | C2H3Cl2O3P
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | Diethyl 3,3′-[(vinylphosphoryl)bis(oxy)]dibenzoate | 1.61 g, 86-99% | C(=C)P(=O)(OC=1C=C(C(=O)OCC)C=CC1)OC=1C=C(C(=O)OCC)C=CC1 | C20H21O7P
